US04442115
A solution of fuming nitric acid (12.1 ml; s.g. 1.5) in glacial acetic acid (120 ml) was added in one portion to a stirred solution of 4-ethyl-2-methoxyphenol (41.7 g) in dry dichloromethane (800 ml). After 1 minute the solution was washed with water (3×300 ml), and the organic layer was dried over anhydrous sodium sulphate and evaporated in vacuo to give an orange crystalline residue. This was recrystallised from a mixture of methanol and water to give 4-ethyl-2-methoxy-6-nitrophenol (31.3 g), m.p. 59°-61° C.

reactant | nitric acid | 12.1 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-ethyl-2-methoxyphenol | 41.7 g | C(C)C1=CC(=C(C=C1)O)OC | C9H12O2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | 4-ethyl-2-methoxy-6-nitrophenol | 31.3 g | C(C)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C9H11NO4
